US08445708B2
To a solution of (2S,7S)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropyloxy)-benzoyl]-8-methylnon-4-enoic acid (90 mg; 0.21 mmol) in trifluoroacetic acid (1 ml) was added triethylsilane (250 μl; 1.5 mmol). After stirring the solution at RT for 1 day, a second portion of triethylsilane (250 μl; 1.5 mmol) was added, and the solution was stirred at RT for a further 2 days and then added to water. The aqueous layer was extracted 3× with tert-butyl methyl ether and the organic layer was dried over MgSO4 and concentrated under reduced pressure. The crude residue was purified by flash chromatography (silica gel; hexane/acetone 4:1) to obtain (2S,7R)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnon-4-enoic acid (53 mg, 0.126 mmol, 61% yield).

reactant | (2S,7S)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropyloxy)-benzoyl]-8-methylnon-4-enoic acid | 0.21 mmol, 90 mg | C(C)(C)[C@@H](C(=O)O)C\C=C\C[C@@H](C(C)C)C(C1=CC(=C(C=C1)OC)OCCCOC)=O | C25H38O6
reactant | triethylsilane | 1.5 mmol, 250 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 1.5 mmol, 250 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,7R)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnon-4-enoic acid | 0.126 mmol, 53 mg, 61% yield | C(C)(C)[C@@H](C(=O)O)C\C=C\C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C25H40O5
